US04752645
(A) 7-Chloro-3-ethyl-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one
To a freshly prepared solution of lithium diisopropylamide in tetrahydrofuran (6 equivalents; prepared by addition of 19.2 ml of a 2.6M solution of n-butyllithium in hexane to 15 ml of freshly distilled diisopropylamine in 80 ml of tetrahydrofuran) at -78° C., was added 3.0 g (8.35 mmole) of 7-chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one (see Example 1C . After stirring at -78° C. for 1.5 hours, 3 ml of hexamethylphosphoric triamide was added along with 13.6 ml of iodoethane (filtered through alumina to remove iodine). The mixture was stirred at -78° C. for 30 minutes (under argon), and then at -20° C. (dry-ice/carbon tetrachloride bath) for six days. The reaction was quenched with 1N hydrochloric acid (50 ml), and the aqueous layer was extracted with ethyl acetate (three times). The ethyl acetate extracts and the tetrahydrofuran were combined, washed with saturated sodium bicarbonate and saturated sodium chloride, and dried (magnesium sulfate). The solution was concentrated, combined with 0.31 g of previously prepared crude product and flash chromatographed (silica gel/3:1-hexane:ethyl acetate) yielding 0.61 g of product.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | 7-chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 8.35 mmole, 3.0 g | ClC=1C=CC2=C(CC(C(C(N2)=O)C(=O)OC)C2=CC=C(C=C2)OC)C1 | C19H18ClNO4
reactant | iodoethane | 13.6 ml | ICC | C2H5I
reactant | dry-ice carbon tetrachloride | C(=O)=O.C(Cl)(Cl)(Cl)Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 3 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 7-Chloro-3-ethyl-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 0.61 g | ClC=1C=CC2=C(CC(C(C(N2)=O)(C(=O)OC)CC)C2=CC=C(C=C2)OC)C1 | C21H22ClNO4
